US05068456
Magnesium nonylphenoxide was prepared by reacting magnesium turnings (52 grams) with methanol (100 grams) in a three-liter three-neck flask fitted with stirrer, condenser, thermometer and nitrogen inlet. Magnesium turnings were added in 5-gram portions every 10 minutes and the exothermio reaction was controlled at 35° to 45° C. with the aid of an ice water bath. When all the magnesium was reacted, nonylphenol (880 grams) was added. The resulting solution contained 2.7% soluble magnesium according to atomic absorption analysis.

reactant | magnesium | 52 grams | [Mg] | Mg
reactant | nonylphenol | 880 grams | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | methanol | 100 grams | CO | CH4O
product | Magnesium nonylphenoxide | C(CCCCCCCC)C1=C([O-])C=CC=C1.[Mg+2].C(CCCCCCCC)C1=C([O-])C=CC=C1 | InChI=1S/2C15H24O.Mg/c2*1-2-3-4-5-6-7-8-11-14-12-9-10-13-15(14)16;/h2*9-10,12-13,16H,2-8,11H2,1H3;/q;;+2/p-2
